### PR TITLE
rt refine: weaken invs/invs' preconditions for schedContextResume_corres, etc.

### PR DESCRIPTION
**Pull request by mktnk3**
Trying to avoid having `invs`/`invs’` where possible, but also trying not to touch the IPC related functions.
What is in this PR is mostly around `schedContextResume`.

Signed-off-by: Miki Tanaka <miki.tanaka@unsw.edu.au>

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2992,13 +2999,15 @@ lemma schedContextResume_corres:
         apply (fastforce simp: valid_refills_def vs_all_heap_simps rr_valid_refills_def
                                opt_map_red MIN_REFILLS_def
                         dest!: active_sc_valid_refillsE split: if_split_asm)
-       apply (clarsimp simp: is_schedulable_bool_def get_tcb_def is_sc_active_kh_simp)
-       apply (fastforce simp: valid_refills_def vs_all_heap_simps rr_valid_refills_def
-                        dest: active_sc_valid_refillsE)
+        apply (fastforce simp: valid_refills_def vs_all_heap_simps rr_valid_refills_def
+                        dest!: active_sc_valid_refillsE)
+      apply (fastforce simp: vs_all_heap_simps valid_ready_qs_2_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3004]: Is the indentation off here?

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -2094,23 +2095,19 @@ lemma schedContextBindTCB_corres:
...
-                            elim: delta_sym_refs split: if_splits)
-          apply (fastforce dest: idle_no_ex_cap)
-         apply (fastforce dest: idle_sc_no_ex_cap)
         apply (fastforce simp: tcb_at_kh_simps pred_map_eq_def
                         dest!: valid_ready_qs_no_sc_not_queued)
        apply (fastforce simp: tcb_at_kh_simps pred_map_eq_def
                        elim!: valid_release_q_no_sc_not_in_release_q)
       apply (fastforce simp: sc_at_pred_def sc_at_ppred_def obj_at_def bound_sc_tcb_at_def
                       split: if_splits)
+           apply (fastforce simp: obj_at_def pred_tcb_at_def sc_at_ppred_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:2108]: Indentation

**Review by michaelmcinerney — APPROVED** [review]
Very nice

**Review by corlewis — APPROVED** [review]
